US04447441
To a solution of 5-(3-nitropyrazol-1-yl)valeronitrile (9.16 g.) in dry tetrahydrofuran (200 ml.) was added 5% w/w palladium on carbon (1.8 g.). The mixture was stirred at 20° under an atmosphere of hydrogen. 3.2 Liters of hydrogen were absorbed over 4 hours. The catalyst was filtered off and the filtrate was evaporated in vacuo to give 5-(3-aminopyrazol-1-yl)valeronitrile as an oil.

reactant | 5-(3-nitropyrazol-1-yl)valeronitrile | 9.16 g | [N+](=O)([O-])C1=NN(C=C1)CCCCC#N | C8H10N4O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1.8 g | [Pd] | Pd
product | 5-(3-aminopyrazol-1-yl)valeronitrile | NC1=NN(C=C1)CCCCC#N | C8H12N4
